US05066811
4,5-Bis(4-hydroxyphenyl)-2-phenylimidazole
4,5-Bis(4-methoxyphenyl)-2-phenylimidazole (15.8 g, 0.044 mol) was placed in a 250 ml three neck round bottom flask equipped with a mechanical stirrer, nitrogen inlet, thermometer, reflux condenser and hydrogen bromide gas trap along with acetic acid (75 ml) and 47-49% aqueous hydrogen bromide solution (130 ml). The mixture was heated to reflux for 16 hours, cooled, poured into water to give a white solid, which was neutralized with sodium hydroxide, collected, washed with water and dried at 100° C. Yield was 13.7 g of white solid. Recrystallization from ethanol/water (3:1) gave 11.5 g (79%) of white crystals, m.p. 327°-330° C. Anal. Calcd. for C21H16N2O2 : C, 76.80%; H, 4.91%; N, 8.53%. Found: C, 76.50%; H, 5.00%; N, 8.44%.

reactant | 4,5-Bis(4-methoxyphenyl)-2-phenylimidazole | 0.044 mol, 15.8 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C23H20N2O2
reactant | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen bromide | 130 ml | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4,5-Bis(4-hydroxyphenyl)-2-phenylimidazole | 11.5 g, 79% | OC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)O)C1=CC=CC=C1 | C21H16N2O2
